US05925789
Preparation of N-Triphenylmethyl-4-chloro-2-trifluoroacetylaniline. Method B
4-Chloro-2-trifluoroacetylaniline, hydrochloride hydrate (84.4 g, 304 mmol), cyclohexane (350 mL), MTBE (95 mL), and water (100 mL) were stirred at room temperature. The resulting slurry was neutralized with 30 mL 10 N NaOH. To the organic phase was added trityl alcohol (91.0 g, 350 mmol) and TsOH (0.36 g, 1.9 mmol). The mixture was heated to reflux and 300 mL of solvent was distilled. Acetonitrile (350 mL) and diisopropylethyl amine (0.5 mL) were added and the distillation continued to remove 220 mL additional solvent. The solution was cooled in an ice bath and the product filtered to give 126.5 g (89%) of product with the same spectral and physical properties as the sample prepared in Method A.

reactant | 4-Chloro-2-trifluoroacetylaniline, hydrochloride hydrate | 304 mmol, 84.4 g | O.Cl.ClC1=CC(=C(N)C=C1)C(C(F)(F)F)=O
reactant | cyclohexane | 350 mL | C1CCCCC1 | C6H12
reactant | NaOH | 10 N, 30 mL | [OH-].[Na+]
reactant | trityl alcohol | 350 mmol, 91.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)O | C19H16O
catalyst | TsOH | 1.9 mmol, 0.36 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | water | 100 mL | O | H2O
solvent | MTBE | 95 mL | CC(C)(C)OC | C5H12O
product | N-Triphenylmethyl-4-chloro-2-trifluoroacetylaniline | 126.5 g, 89% | C1(=CC=CC=C1)C(NC1=C(C=C(C=C1)Cl)C(C(F)(F)F)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H19ClF3NO
